US05574140
To a stirring solution of (9.20 g, 46.9 mmoles) benzoylmercaptoacetic acid and (5.41 g, 46.9 mmoles) N-hydroxysuccinimide in (100 mL) dioxane was added a solution of (9.70 g, 47 mmoles) dicyclohexylcarbodiimide in (40 mL) dioxane. The reaction was stirred 12 hours followed by cooling to 4° C., filtering, and rotavapping off the dioxane to a white solid. The solid was triturated with cold isopropanol, filtered, and dried in vacuo yielding 10.8 g, 78% benzoylmercaptoacetyl-N-hydroxysuccinimide. 200 mg was recrystallized from 500 mg in hot ethyl acetate.

reactant | benzoylmercaptoacetic acid | 46.9 mmoles, 9.20 g | C(C1=CC=CC=C1)(=O)SCC(=O)O | C9H8O3S
reactant | N-hydroxysuccinimide | 46.9 mmoles, 5.41 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 47 mmoles, 9.70 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | benzoylmercaptoacetyl-N-hydroxysuccinimide | 10.8 g, 78% | C(C1=CC=CC=C1)(=O)SCC(=O)C1C(=O)N(C(C1)=O)O | C13H11NO5S
